US07576094B2
To a solution of 4-mercapto-2,6-dimethylphenol (2.5 g) in anhydrous methanol (40 mL) containing trimethyl orthoformate (3 mL), was added cyclobutylidene-acetic acid ethyl ester (7.6 g) and then 5 drops of concentrated sulfuric acid. The solution was deoxygenated by bubbling with nitrogen, and was allowed to reflux for 4 days. The mixture was concentrated, washed with saturated NaHCO3 and extracted with ethyl acetate. After concentrated in vacuo, the residue was purified by flash chromatography eluted with 10-20% ethyl acetate in hexane to give 3.1 g of methyl {1-[(4-hydroxy-3,5-dimethylphenyl)thio]cyclobutyl}acetate as a white solid.

reactant | 4-mercapto-2,6-dimethylphenol | 2.5 g | SC1=CC(=C(C(=C1)C)O)C | C8H10OS
reactant | trimethyl orthoformate | 3 mL | C(OC)(OC)OC | C4H10O3
reactant | cyclobutylidene-acetic acid ethyl ester | 7.6 g | C(C)OC(C=C1CCC1)=O | C8H12O2
solvent | methanol | 40 mL | CO | CH4O
catalyst | sulfuric acid | 5 drops | S(O)(O)(=O)=O | H2O4S
product | methyl {1-[(4-hydroxy-3,5-dimethylphenyl)thio]cyclobutyl}acetate | 3.1 g | OC1=C(C=C(C=C1C)SC1(CCC1)CC(=O)OC)C | C15H20O3S
